US07902252B2
2.14. Synthesis of 4-propyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (7)
The title compound was synthesized from methyl 4-propyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (95 mg, 0.46 mmol) and lithium hydroxide monohydrate (77 mg, 1.83 mmol) according to General Procedure 7. The crude product was dried onto Silica gel and was purified by flash chromatography (0-80% EtOAc/Heptane) to give 70 mg of 4-propyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (7) as a light yellow solid (79%). 1H NMR (400 MHz, METHANOL-d4) δ ppm 0.96 (t, J=7.03 Hz, 3H), 1.36-1.56 (m, 4H), 1.92-2.03 (m, 1H), 2.52-2.76 (m, 3H), 2.87-2.96 (m, 1H), 6.61 (s, 1H); LCMS-MS (ESI−) 192.2 (M−H); HPLC (UV=100%).

reactant | methyl 4-propyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.46 mmol, 95 mg | C(CC)C1CCC=2NC(=CC21)C(=O)OC | C12H17NO2
reactant | lithium hydroxide monohydrate | 1.83 mmol, 77 mg | O.[OH-].[Li+]
product | 4-propyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | 70 mg, 79% | C(CC)C1CCC=2NC(=CC21)C(=O)O | C11H15NO2
